US07759369B2
6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylic acid
Sodium 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate (3.0 g) was suspended in ethyl acetate (100 ml) and water (100 ml) with stirring. Acetic acid (1.0 ml) was added to give two clear phases which were separated. The ethyl acetate layer was dried over magnesium sulfate and concentrated to give an oil which crystallised after a few minutes. Toluene (100 ml) was added and the solution was re-evaporated to give a white solid. Left at 20 mBar for 5 hours at 45° C. 2.69 g.

reactant | Sodium 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate | 3.0 g | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)[O-])OCC1=C(C=C(C=C1)Cl)F.[Na+]
reactant | water | 100 ml | O | H2O
reactant | Acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylic acid | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)OCC1=C(C=C(C=C1)Cl)F | C20H14Cl2FNO3
